US08071592B2
(a) 1,1-Dimethylethyl (1-{2-[7-(methyloxy)-2-oxo-1,8-naphthyridin-1(2H)-yl]ethyl}-4-piperidinyl)carbamate
A solution of 7-(methyloxy)-1-(2-propen-1-yl)-1,8-naphthyridin-2(1H)-one (240 mg, 1.1 mmol) in 1,4-dioxane/water (12 ml/20 ml) was treated with osmium tetroxide solution (4% in water, 1 ml) followed by sodium periodate (2.1 g, 10 mmol). After 30 minutes more water (15 ml) was added. After a further 1 hour the mixture was diluted with an equal mixture of brine and extracted twice with ethyl acetate. The dried extracts were evaporated to give a yellow oil. This was dissolved in dichloromethane/methanol (6 ml/0.6 ml) and treated with 1,1-dimethylethyl 4-piperidinylcarbamate (240 mg, 1.2 mmol) then sodium triacetoxyborohydride (626 mg, 3 mmol). After 2 hours the mixture was treated with saturated aqueous sodium bicarbonate and dichloromethane. The organic extract was added to a silica column, eluting with 0-100% ethyl acetate in hexane then 0-20% methanol in ethyl acetate, affording a brown foam (320 mg, 72% over 2 steps).

reactant | 7-(methyloxy)-1-(2-propen-1-yl)-1,8-naphthyridin-2(1H)-one | 1.1 mmol, 240 mg | COC1=CC=C2C=CC(N(C2=N1)CC=C)=O | C12H12N2O2
reactant | sodium periodate | 10 mmol, 2.1 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | 1,1-dimethylethyl 4-piperidinylcarbamate | 1.2 mmol, 240 mg | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | sodium triacetoxyborohydride | 3 mmol, 626 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane water | 12 ml | O1CCOCC1.O
solvent | brine | [Cl-].[Na+].O
solvent | dichloromethane methanol | 6 ml | ClCCl.CO
catalyst | osmium tetroxide | 1 ml | [Os](=O)(=O)(=O)=O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | 15 ml | O | H2O
product | 1,1-Dimethylethyl (1-{2-[7-(methyloxy)-2-oxo-1,8-naphthyridin-1(2H)-yl]ethyl}-4-piperidinyl)carbamate | COC1=CC=C2C=CC(N(C2=N1)CCN1CCC(CC1)NC(OC(C)(C)C)=O)=O | C21H30N4O4
